US05658935
d) Synthesis of {4-[4-(aminoiminomethyl)benzyl]-3,3-bisethoxycarbonylbutyryl}glycine methyl ester hydrochloride
10.5 g of 4-[4-(aminoiminomethyl)benzyl]-3,3-bisethoxycarbonylbutyric acid hydrochloride are dissolved in 500 ml of dimethylformamide. 3.75 g of glycine methyl ester hydrochloride, 9.83 g of O-[(cyanoethoxycarbonylmethylene)amino]-N,N,N',N'-tetramethyluronium tetrafluoroborate (TOTU) and 11.5 ml of N-ethylmorpholine are then added successively. The mixture is stirred for 24 h and the solvent is then stripped off in vacuo. The oily residue is chromatographed on silica gel using dichloromethane/methanol/water/acetic acid (100:10:1:1). The fractions containing the product are combined and concentrated.

reactant | 4-[4-(aminoiminomethyl)benzyl]-3,3-bisethoxycarbonylbutyric acid hydrochloride | 10.5 g | Cl.NN=CC1=CC=C(CCC(CC(=O)O)(C(=O)OCC)C(=O)OCC)C=C1
reactant | glycine methyl ester hydrochloride | 3.75 g | Cl.COC(CN)=O
reactant | O-[(cyanoethoxycarbonylmethylene)amino]-N,N,N',N'-tetramethyluronium tetrafluoroborate | 9.83 g | F[B-](F)(F)F.C(#N)CCOC(=O)C=NOC(=[N+](C)C)N(C)C
reactant | N-ethylmorpholine | 11.5 ml | C(C)N1CCOCC1 | C6H13NO
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | {4-[4-(aminoiminomethyl)benzyl]-3,3-bisethoxycarbonylbutyryl}glycine methyl ester hydrochloride | Cl.COC(CNC(CC(CCC1=CC=C(C=C1)C=NN)(C(=O)OCC)C(=O)OCC)=O)=O | InChI=1S/C21H29N3O7.ClH/c1-4-30-19(27)21(20(28)31-5-2,12-17(25)23-14-18(26)29-3)11-10-15-6-8-16(9-7-15)13-24-22;/h6-9,13H,4-5,10-12,14,22H2,1-3H3,(H,23,25);1H
